US06479524B1
b. ethyl 4-(4-bromo-2,5-dimethyl-phenyl)-3,3-dimethyl-4-oxo-butanoate
A solution of 3.2 g (10 mmol) of 4-(4-bromo-2,5-dimethyl-phenyl)-3,3-dimethyl4-oxo-butanoic acid in tetrahydrofuran is combined with 3.60 g (11 mmol) of carbonyldiimidazole and stirred for 1 hour at ambient temperature. The solvent is replaced by 20 ml of ethanol and the mixture is heated to boiling for 2 hours. Then the solvent is distilled off, the crude product is taken up in methylene chloride, washed with water, dried with sodium sulphate, concentrated and purified by flash chromatography (silica gel; ethyl acetate/petroleum ether=3:97).

reactant | 4-(4-bromo-2,5-dimethyl-phenyl)-3,3-dimethyl4-oxo-butanoic acid | 10 mmol, 3.2 g | BrC1=CC(=C(C=C1C)C(C(CC(=O)O)(C)C)=O)C | C14H17BrO3
reactant | carbonyldiimidazole | 11 mmol, 3.60 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ethanol | 20 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | ethyl 4-(4-bromo-2,5-dimethyl-phenyl)-3,3-dimethyl-4-oxo-butanoate | BrC1=CC(=C(C=C1C)C(C(CC(=O)OCC)(C)C)=O)C | C16H21BrO3
